US08198456B2
A mixture of 5-iodo-N-methoxy-N-methyl-1H-indazole-3-carboxamide (5 g, 15.1 mmol), HCOONa (1.85 g, 30.2 mmol), and PdCl2(PPh3)2 (320 mg, 0.453 mmol) in DMF (20 mL) was put under vacuum, and charged with CO. This process was repeated three times, and the mixture was kept at 110° C. for 6 hr. After cooling to rt, the reaction mixture was diluted with brine and extracted with EtOAc. The organic phases were combined, washed with brine, dried, and concentrated. The crude product was purified by column chromatography to afford 5-formyl-N-methoxy-N-methyl-1H-indazole-3-carboxamide (550 mg, 15.6%) as a white solid.

reactant | 5-iodo-N-methoxy-N-methyl-1H-indazole-3-carboxamide | 15.1 mmol, 5 g | IC=1C=C2C(=NNC2=CC1)C(=O)N(C)OC | C10H10IN3O2
reactant | HCOONa | 30.2 mmol, 1.85 g | C(=O)O[Na]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
catalyst | PdCl2(PPh3)2 | 0.453 mmol, 320 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-formyl-N-methoxy-N-methyl-1H-indazole-3-carboxamide | 550 mg, 15.6% | C(=O)C=1C=C2C(=NNC2=CC1)C(=O)N(C)OC | C11H11N3O3
